* G1_DUT npn13G2 output curves: corner hbt_wcs, T = -40 C
.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerHBT.lib hbt_wcs
.option gmin=1e-15 abstol=1e-15 reltol=1e-4
.temp -40

Ib 0 b dc 1u
Vce c 0 dc 1.0
XQ1 c b e 0 npn13G2 Nx=1
Ve e 0 dc 0

.control
set filetype=ascii
set wr_singlescale
set wr_vecnames
dc Vce 0 1.6 0.01 Ib 1u 8u 1u
let ic = -i(vce)
wrdata hbt_wcs_Tm40C_output.dat ic
.endc
.end
