* dut extracted macro characterization
.include /work/designs/g1-guardian/blocks/g1_dut/sim/qualification/selfheat_screen_20260922_r1/coupon_selft0.spice
.temp 125
.option method=gear reltol=1e-4 abstol=1e-16 vntol=1e-7 gmin=1e-16
.global sub!
Vsub sub! 0 0
Vdd vdd 0 1.2
Vdda vdda 0 3.3
.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerMOSlv.lib mos_tt
.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerMOShv.lib mos_tt
.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerHBT.lib hbt_typ
.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerRES.lib res_typ
.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerCAP.lib cap_typ
.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerDIO.lib dio_tt
.include /foss/pdks/ihp-sg13g2/libs.ref/sg13g2_io/spice/sg13g2_io.spi
XP_b b_pad b_unused vdd 0 vdda 0 sg13g2_IOPadAnalog
R_b b_pad b_wire 35.89549999999999
CRa_b b_pad 0 3.2037217199999994f
CRb_b b_wire 0 3.2037217199999994f
VM_b b_wire b 0
XP_c c_pad c_unused vdd 0 vdda 0 sg13g2_IOPadAnalog
R_c c_pad c_wire 90.01170000000002
CRa_c c_pad 0 8.026263240000002f
CRb_c c_wire 0 8.026263240000002f
VM_c c_wire c 0
XP_e e_pad e_unused vdd 0 vdda 0 sg13g2_IOPadAnalog
R_e e_pad e_wire 69.8649
CRa_e e_pad 0 6.2309662800000005f
CRb_e e_wire 0 6.2309662800000005f
VM_e e_wire e 0
X1 b c e 0 g1_dut_macro
Vb b_pad 0 0.7
Vc c_pad 0 1.0
Ve e_pad 0 0
.control
set num_threads=1
set numdgt=15
set wr_singlescale
set wr_vecnames
dc Vb 0.30 0.85 0.001
wrdata /work/designs/g1-guardian/blocks/g1_dut/sim/qualification/selfheat_screen_20260922_r1/typ_125_selft0/wave.tsv v(b) v(c) v(e) i(vm_b) i(vm_c) i(vm_e) i(vb) i(vc) i(ve) i(vdd) i(vdda) v(x1.xq1.t)
echo HBT_THERMAL_END
quit 0
.endc
.end
